US07501425B1
3-(3,5-Dimethoxy-phenyl)-7-methylsulfanyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
Into a solution of 5.0 g (16.3 mmol) of 5-[(3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine in 55 mL of dimethylformamide cooled to 5° C., was added 1.63 g (40.8 mmol) of sodium hydride as a 60% mineral oil suspension. The ice bath was removed, and the reaction was stirred for 1 hour. To the reaction was then added 7.94 g (48.9 mmol) of 1,1′-carbonyldiimidazole. After stirring the mixture a further 2.5 hours, the mixture was concentrated in vacuo. The residue was partitioned between dichloromethane and a saturated solution of ammonium chloride. The dichloromethane layer was washed twice with each of saturated ammonium chloride, water, and a saturated solution of sodium chloride. The dichloromethane solution was dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with chloroform/methanol (10:0.25 v/v), to give 3.24 g (60%) of the title compound.

reactant | 5-[(3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine | 16.3 mmol, 5.0 g | COC=1C=C(C=C(C1)OC)NCC=1C(=NC(=NC1)SC)N | C14H18N4O2S
reactant | sodium hydride | 40.8 mmol, 1.63 g | [H-].[Na+]
reactant | 1,1′-carbonyldiimidazole | 48.9 mmol, 7.94 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 55 mL | CN(C=O)C | C3H7NO
product | 3-(3,5-Dimethoxy-phenyl)-7-methylsulfanyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 3.24 g, 60% | COC=1C=C(C=C(C1)OC)N1C(NC2=NC(=NC=C2C1)SC)=O | C15H16N4O3S
